US06001862
Methyl 5-(2,4-dioxothiazolidin-5-ylidene)methyl-2-methoxybenzoate
A mixture of methyl 5-formyl-2-methoxybenzoate (490 mg), thiazolidine-2,4-dione (358 mg), ammonium acetate (401 mg), acetic acid (0.8 ml) and benzene (10 ml) was submitted to Dean-Stalk dewatering apparatus to reflux for 4 hours under heat. After cooling, the crystals deposited were collected by filtration, washed with benzene and with 20% aqueous solution of acetone, and then dried to obtain 634 mg (86%) of aimed compound as crystals.

reactant | methyl 5-formyl-2-methoxybenzoate | 490 mg | C(=O)C=1C=CC(=C(C(=O)OC)C1)OC | C10H10O4
reactant | thiazolidine-2,4-dione | 358 mg | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | ammonium acetate | 401 mg | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 0.8 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | Methyl 5-(2,4-dioxothiazolidin-5-ylidene)methyl-2-methoxybenzoate | 634 mg, 86% | O=C1SC(C(N1)=O)=CC=1C=CC(=C(C(=O)OC)C1)OC | C13H11NO5S
